US08871774B2
Formation of N-((1R,3S)-3-((5-fluoro-2-(1H-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-yl)amino)cyclohexyl)-1-methyl-1H-imidazole-4-carboxamide (I-24)
To a solution of N-[(1R,3S)-3-[[5-fluoro-2-(1-tritylpyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-yl]amino]cyclohexyl]-1-methyl-imidazole-4-carboxamide, 25, (0.235 g, 0.347 mmol) in dichloromethane (6.90 mL) at room temperature was added Et3SiH (1.661 mL, 10.40 mmol) followed by TFA (0.401 mL, 5.200 mmol). The reaction mixture was stirred for 1 hour. The mixture was diluted with dichloromethane and quenched with aqueous saturated Na2CO3 solution. The organic phase was extracted with ethyl acetate, washed with brine (10 mL), dried over sodium sulfate and concentrated in vacuo. The crude residue was purified by silica chromatography (0-7% MeOH [2N NH3] in ethyl acetate) to give the desired product: LC/MS Gradient 10-90%, 0.1% formic 5 min, C18/ACN, RT=1.46 min (M+H)=436.62.

reactant | N-[(1R,3S)-3-[[5-fluoro-2-(1-tritylpyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-yl]amino]cyclohexyl]-1-methyl-imidazole-4-carboxamide | FC=1C(=NC(=NC1)C1=NN(C2=NC=CC=C21)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N[C@@H]2C[C@@H](CCC2)NC(=O)C=2N=CN(C2)C | C40H36FN9O
reactant | Et3SiH | 10.40 mmol, 1.661 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | TFA | 5.200 mmol, 0.401 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 6.90 mL | ClCCl | CH2Cl2
product | N-((1R,3S)-3-((5-fluoro-2-(1H-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-yl)amino)cyclohexyl)-1-methyl-1H-imidazole-4-carboxamide | FC=1C(=NC(=NC1)C1=NNC2=NC=CC=C21)N[C@@H]2C[C@@H](CCC2)NC(=O)C=2N=CN(C2)C | C21H22FN9O
